US08937150B2
2-(4-bromophenylamino)-2-(4-tert-butylphenyl)acetonitrile
To a solution of 4-bromoaniline (10.0 g, 58.1 mmol) in THF (100 mL) was added 4-tert-butylbenzaldehyde (9.72 mL, 58.1 mmol), acetic acid (13.3 mL, 233 mmol), potassium cyanide (3.79 g, 58.1 mmol) and water (50 mL). The resultant mixture was stirred at room temperature for 16 hours. The resultant solid that formed was collected by vacuum filtration, washed with hexane, and then dried to afford 15.3 g, (77%) of the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 7.49 (m, 4H), 7.37 (d, J=8.7 Hz, 2H), 6.66 (d, J=8.8 Hz, 2H), 5.34 (d, J=8.1 Hz, 1H), 4.02 (d, J=8.0 Hz, 1H), 1.34 (s, 9H).

reactant | 4-bromoaniline | 58.1 mmol, 10.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 4-tert-butylbenzaldehyde | 58.1 mmol, 9.72 mL | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | acetic acid | 233 mmol, 13.3 mL | C(C)(=O)O | C2H4O2
reactant | potassium cyanide | 58.1 mmol, 3.79 g | [C-]#N.[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-(4-bromophenylamino)-2-(4-tert-butylphenyl)acetonitrile | 77% | BrC1=CC=C(C=C1)NC(C#N)C1=CC=C(C=C1)C(C)(C)C | C18H19BrN2
